US07723333B2
4-[(4,4-Difluorocyclohexyl)amino]-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.155 g, 0.54 mmol), 4,4-difluorocyclohexylamine (0.11 g, 0.81 mmol) and TEA (0.082 g, 0.81 mmol) was dissolved in dry MeCN (3 ml) and heated in a microwave reactor at 130° C. for 10 mins. The reaction mixture was purified by silica gel column chromatography using a 85:15 mixture of hexane and EtOAc as eluant, to give the title compound (0.142 g, 68%); 1H NMR (500 MHz, CDCl3): δ 7.54-7.49 (m, 2H), 7.49-7.42 (m, 3H), 5.23-5.16 (m, 1H), 4.41 (hep, 1H), 3.10-3.00 (m, 1H), 1.97-1.86 (m, 2H), 1.77-1.68 (m, 2H), 1.57 (d, 6H), 1.49-1.37 (m, 2H), 1.37-1.21 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 158.6, 134.5, 131.8, 130.3, 129.0, 125.1, 123.9, 122.0, 120.0, 107.3, 49.9, 47.9, 32.1, 31.9, 31.7, 29.0, 28.9, 20.4; Mass Spectrum: M−H+ 385.

reactant | 4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.54 mmol, 0.155 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 4,4-difluorocyclohexylamine | 0.81 mmol, 0.11 g | FC1(CCC(CC1)N)F | C6H11F2N
solvent | MeCN | 3 ml | CC#N | C2H3N
product | 4-[(4,4-Difluorocyclohexyl)amino]-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.142 g, 68% | FC1(CCC(CC1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O)F | C18H22F2N2O3S
